US04322437
A solution of 20 g 4-methoxyindan-1-one and 24 g 1,5-dibromopentane in 150 ml benzene is added quickly dropwise to a solution of potassium tert.-butylate (produced from 9.7 g potassium and excess tert.-butanol) in 200 ml benzene at 80°. The mixture is refluxed for 4 hours, treated with 50 ml water and 200 ml 2 N hydrochloric acid, and extracted with benzene. Chromatography on silicagel of the benzene phase gives 4'-methoxy-spiro(cyclohexane-1,2'-indan)-1'-one. M.Pt. 94°-96°.

reactant | 4-methoxyindan-1-one | 20 g | COC1=C2CCC(C2=CC=C1)=O | C10H10O2
reactant | 1,5-dibromopentane | 24 g | BrCCCCCBr | C5H10Br2
reactant | water | 50 ml | O | H2O
reactant | hydrochloric acid | 2 N, 200 ml | Cl | ClH
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 4'-methoxy-spiro(cyclohexane-1,2'-indan)-1'-one | COC1=C2CC3(C(C2=CC=C1)=O)CCCCC3 | C15H18O2
